US05856556
(3S, 4R)3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-([2-(p-nitrobenzyloxycarbonylamino)ethylthio]carbonyl-methyl)-2-azetidinone.
1.00 9 (3,48 mmole) of (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-carboxymethyl-2-azetidinone and 1.07 g (4.8 mmole) of 2-(p-nitrobenzyloxycarbonyl-amino)ethanethiol were dissolved in 20 ml of benzene. To this solution were added 861 mg (4.18 mmole) of dicyclohexylcarbodiimide and 10 mg (0.082 mmole) of 4-dimethylaminopyridine, at room temperature with stirring. The mixture was stirred for 2 hours, after which the insolubles which had formed were filtered off and the resulting filtrate was concentrated to dryness by evaporation under reduced pressure, The residue was purified by column chromatography through 40 g of silica gel, to give 1.59 g (yield 87%) of the desired product as an oil from the fractions eluted with a 1:1 volume mixture of benzene and ethyl acetate.

reactant | (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-4-carboxymethyl-2-azetidinone | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)O)=O | C13H25NO4Si
reactant | 2-(p-nitrobenzyloxycarbonyl-amino)ethanethiol | 4.8 mmole, 1.07 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS)C=C1 | C10H12N2O4S
reactant | dicyclohexylcarbodiimide | 4.18 mmole, 861 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.082 mmole, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (3S, 4R)3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-([2-(p-nitrobenzyloxycarbonylamino)ethylthio]carbonyl-methyl)-2-azetidinone | 1.59 g, yield 87% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)SCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H35N3O7SSi
